US07491735B2
Using general procedure A with 6-ethoxy-pyridin-3-ylamine (Nishikawa, Yoshinori; et al., J. Med. Chem., 32, 3, 1989, 583-593) (210 mg, 1.52 mmol) and (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (278 mg, 1.67 mmol) followed by general procedure J afforded [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(6-ethoxy-pyridin-3-yl)-amine as a white solid (365 mg, 83% over 2 steps).

reactant | 6-ethoxy-pyridin-3-ylamine | 1.52 mmol, 210 mg | C(C)OC1=CC=C(C=N1)N | C7H10N2O
reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 1.67 mmol, 278 mg | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
product | [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(6-ethoxy-pyridin-3-yl)-amine | NCC[C@@H](C)N1CCC(CC1)NC=1C=NC(=CC1)OCC | C16H28N4O
